US05565568
Preparation of 2,5-dioxo-1-piperazineacetic acid
In a 50 ml round bottom flask 5.0 ml of 70% trifluoroacetic acid acid was added to 2,5-dioxo-1-piperazineacetic acid 1,1-dimethylethyl ester (1.0 g) dissolved in anisole (1 ml). The reaction was stirred at room temperature. The progress of the reaction was monitored by thin layer chromatography. The deprotection rection was sufficiently complete after one hour.

reactant | trifluoroacetic acid | 5.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,5-dioxo-1-piperazineacetic acid 1,1-dimethylethyl ester | 1.0 g | CC(C)(C)OC(CN1C(CNC(C1)=O)=O)=O | C10H16N2O4
solvent | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
product | 2,5-dioxo-1-piperazineacetic acid | O=C1N(CC(NC1)=O)CC(=O)O | C6H8N2O4
